US05498630
To a solution of 90% t-butyl nitrite (50 mL, 0.37 mol) in 200 mL DMF was added in portions ethyl 5-amino-1-methyl-1H-pyrazole-4-carboxylate (39 g, 0.23 mol), maintaining the temperature at around 30° C. After the addition, the resulting mixture was warmed to 50° C. and stirred at that temperature for 0.5 h. The mixture was poured into 100 mL conc HCl and 40 mL water and extracted with CH2Cl2. The organic solution was washed with water, brine, dried and concentrated. Vacuum distillation of the residue gave 32.4 g of ethyl 1-methyl-1H-pyrazole-4-carboxylate as a clear liquid. b.p. 65°-80° C. at 0.1 torr.

reactant | t-butyl nitrite | 0.37 mol, 50 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | ethyl 5-amino-1-methyl-1H-pyrazole-4-carboxylate | 0.23 mol, 39 g | NC1=C(C=NN1C)C(=O)OCC | C7H11N3O2
reactant | HCl | 100 mL | Cl | ClH
reactant | water | 40 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | ethyl 1-methyl-1H-pyrazole-4-carboxylate | 32.4 g | CN1N=CC(=C1)C(=O)OCC | C7H10N2O2
